US08053457B2
[1,4′]Bipiperidinyl-1′-yl-acetonitrile
The title compound is synthesized by coupling of [1,4′]Bipiperidinyl (commercially available from Fluorochem Ltd) and bromoacetonitrile analogously to the preparation of Intermediate 149.2 as a colorless oil; ES-MS: M+=208.2.

reactant | [1,4′]Bipiperidinyl | N1(CCCCC1)C1CCNCC1 | C10H20N2
reactant | bromoacetonitrile | BrCC#N | C2H2BrN
product | [1,4′]Bipiperidinyl-1′-yl-acetonitrile | N1(CCCCC1)C1CCN(CC1)CC#N | C12H21N3
